US06528232B1
After 5.5 g of cyclohexylmercaptan was dissolved into 50 ml of ethanol, 1.97 g of sodium hydroxide was added thereto and refluxed under heating. After the complete dissolving of the sodium hydroxide, the solution was cooled on standing. After 10 g of 2-bromo-1-indanone (available from Aldrich Corporation) dissolved in 10 ml of ether was added dropwise to the cooled solution and stirred for three hours at room temperature, the reaction mixture was poured into 300 ml of cold water. After 200 ml of ether was added thereto for extracting an organic phase, the ether layer was sequentially washed with an aqueous sodium chloride solution and water. After the ether layer was dried with magnesium sulfate, the ether was evaporated under vacuum. The residue was isolated and purified through a silica gel column (elute: hexane/ethyl acetate=9/1) to provide 2.4 g of 2-(cyclohexylthio)-1-indanone (yield: 23%). Then, 2 g of the 2-(cyclohexylthio)-1-indanone was dissolved into 6 ml of nitromethane, and 10.7 g of methyl iodide was added thereto and stirred at room temperature. After an hour, 40 ml of nitromethane dissolving 2.09 g of silver trifluoromethanesulfonate was added dropwise thereto. After the stirring for 18 hours at room temperature, precipitated silver iodide was filtrated and a filtrate was concentrated to about one-third under vacuum. After the residue was added dropwise to 250 ml of ether, a precipitated sulfonium salt was filtered. The precipitated sulfonium salt was recrystalized from ethyl acetate-ethanol to provide 2.42 g of the sulfonium salt having the above structure (yield: 73%).

reactant | cyclohexylmercaptan | 5.5 g | C1(CCCCC1)S | C6H12S
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1.97 g | [OH-].[Na+]
reactant | 2-bromo-1-indanone | 10 g | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | water | 300 ml | O | H2O
product | 2-(cyclohexylthio)-1-indanone | 2.4 g, yield: 23% | C1(CCCCC1)SC1C(C2=CC=CC=C2C1)=O | C15H18OS
